US04476308
1.0 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate is treated with 10 ml of a 40% solution of methylamine in water. After stirring at room temperature for 1 hour, the mixture is evaporated. The residue is shaken five times with acetonitrile in order to remove the water, whereupon in each case it is again evaporated. The residue is treated with diethyl ether. By filtration there is isolated N-methyl-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide of melting point 129°-130.5°.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 1.0 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | methylamine | CN | CH5N
solvent | water | O | H2O
product | N-methyl-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | CNC(CN1C(C(CC1)O)=O)=O | C7H12N2O3
